US05047420
50 g (0.43 mole) of 5-bromovanillin in 130 ml of DMF was added 150 g (1.08 mole) of potassium carbonate and 55 ml (0.606 mole) of bromopropane. The mixture was stirred for 72 hours at 70° C. The solution was then poured into 1 liter ice water. The aqueous solution was extracted with 3×200 ml CH2Cl2, the combined organic extracts were dried over MgSO4. The solution was filtered and the filtrate was concentrated to dryness to yield 66.80 g of 3-bromo-5-methoxy-4-propoxybenzaldehyde as a yellow oil. (95% yield).

reactant | 5-bromovanillin | 0.43 mole, 50 g | BrC=1C(=C(C=C(C=O)C1)OC)O | C8H7BrO3
reactant | potassium carbonate | 1.08 mole, 150 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromopropane | 0.606 mole, 55 ml | BrCCC | C3H7Br
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
product | 3-bromo-5-methoxy-4-propoxybenzaldehyde | 66.80 g, 95% yield | BrC=1C=C(C=O)C=C(C1OCCC)OC | C11H13BrO3
